US04937246
To a mixture of 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1 g), ethyl acetate (50 ml), water (50 ml) and potassium carbonate (3 g) is added, with stirring at room temperature, nicotinoyl chloride hydrochloride (1 g). After stirring for 30 minutes, further nicotinoyl chloride hydrochloride (1 g) is added to the mixture, followed by stirring for another one hour. The ethyl acetate layer is separated, washed with an aqueous solution of sodium bicarbonate and water, successively, and dried, then the solvent is distilled off under reduced pressure. The residue is dissolved in a mixture of ethanol and ethyl acetate. To the mixture is added a 1N hydrogen chloride - ethyl acetate solution (10 ml). The mixture is diluted with ethyl ether, then precipitating powder is collected by filtration to yield 1-(nicotinoyl)-4-(3,4,5-trimethoxybenzoyl)piperazine dihydrochloride (0.8 g) as colorless powder.

reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 1 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | nicotinoyl chloride hydrochloride | 1 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | nicotinoyl chloride hydrochloride | 1 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | water | 50 ml | O | H2O
product | 1-(nicotinoyl)-4-(3,4,5-trimethoxybenzoyl)piperazine dihydrochloride | 0.8 g | Cl.Cl.C(C1=CN=CC=C1)(=O)N1CCN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | InChI=1S/C20H23N3O5.2ClH/c1-26-16-11-15(12-17(27-2)18(16)28-3)20(25)23-9-7-22(8-10-23)19(24)14-5-4-6-21-13-14;;/h4-6,11-13H,7-10H2,1-3H3;2*1H
